US06800659B2
(E,E)-2-(1-Amino-2,2-dicyanoethenyl)-3-(4-nitrostyryl)acrylonitrile (CR29)
The compound was prepared as described in Example 3 by adding 4-nitrocinnamaldehyde (0.051 g, 0.29 mmol) to 2-amino-1-propene-1,1,3-tricarbonitrile (0.038 g, 0.29 mmol). After refluxing for 4 h and recrystallization from ethanol a yellow solid was obtained (0.08 g, 51%). The product gave the following analytical data:

reactant | 4-nitrocinnamaldehyde | 0.29 mmol, 0.051 g | [N+](=O)([O-])C1=CC=C(C=CC=O)C=C1 | C9H7NO3
reactant | 2-amino-1-propene-1,1,3-tricarbonitrile | 0.29 mmol, 0.038 g | NC(=C(C#N)C#N)CC#N | C6H4N4
product | (E,E)-2-(1-Amino-2,2-dicyanoethenyl)-3-(4-nitrostyryl)acrylonitrile | NC(=C(C#N)C#N)/C(/C#N)=C\C=C\C1=CC=C(C=C1)[N+](=O)[O-] | C15H9N5O2
